US06054588
Analogously to Example 7a,b, after reacting 1-(2,4-dichlorophenyl)-2-tetrazol-2-yl-ethanone with 4-methoxybenzyl chloride there was obtained 2-[2-(2,4-dichloro-phenyl)-2-(4-methoxy-benzyloxy)-vinyl]-2H-tetrazole as a colourless oil. [M+H]+ =376.

reactant | 1-(2,4-dichlorophenyl)-2-tetrazol-2-yl-ethanone | ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=N1)=O | C9H6Cl2N4O
reactant | 4-methoxybenzyl chloride | COC1=CC=C(CCl)C=C1 | C8H9ClO
product | 2-[2-(2,4-dichloro-phenyl)-2-(4-methoxy-benzyloxy)-vinyl]-2H-tetrazole | ClC1=C(C=CC(=C1)Cl)C(=CN1N=CN=N1)OCC1=CC=C(C=C1)OC | C17H14Cl2N4O2
